US08455528B2
4-(N-Methylglycyl)benzonitrile (2.6 g) and 20 ml of formamide were heated in a microwave tube at 210° C. for 20 min. The reaction was diluted with EtOAc, made basic with 15% aq NaOH, washed with water (3×100 mL) and brine, dried over MgSO4, filtered, and concentrated. The residue was subject to silica column chromatography (70% EtOAc in hexanes to 100% EtOAc) to give 1.05 g of 4-(1-methyl-1H-imidazol-4-yl)benzonitrile. LCMS: M+1=184.

reactant | 4-(N-Methylglycyl)benzonitrile | 2.6 g | CNCC(=O)C1=CC=C(C#N)C=C1 | C10H10N2O
reactant | formamide | 20 ml | C(=O)N | CH3NO
reactant | NaOH | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(1-methyl-1H-imidazol-4-yl)benzonitrile | 1.05 g | CN1C=NC(=C1)C1=CC=C(C#N)C=C1 | C11H9N3
